US06211199B1
107.6.2 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-hydroxypropyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(allyl)-2-oxopyrrolidine (0.677 g, 1.64 mmol) and tetrahydrofuran (10 mL). Add dropwise a solution of 9-BBN (9-borabicyclo[3.3.1]nonane) (5.56 mL, 0.5 M, 2.78 mmol) in tetrahydrofuran. After 1.5 hours, add dropwise an aqueous sodium hydroxide solution (10 mL, 1 M) and 30% aqueous hydrogen peroxide (1.5 mL, about 14.7 mmol). After 15 minutes heat the reaction mixture to reflux. After 1 hour, cool to ambient temperature, saturate the aqueous mixture with potassium carbonate and separate the layers. Extract the aqueous layer five times with diethyl ether. Combine the organic layers and dry over potassium carbonate, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 5% methanol/dichloromethane to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(allyl)-2-oxopyrrolidine | 1.64 mmol, 0.677 g | COC=1C=C(CN2C(C(CC2)(CC=C)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C24H28FNO4
reactant | 9-BBN | 2.78 mmol, 0.5 M, 5.56 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | sodium hydroxide | 1 M, 10 mL | [OH-].[Na+]
reactant | hydrogen peroxide | about 14.7 mmol, 1.5 mL | OO | H2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol dichloromethane | CO.ClCCl
product | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-hydroxypropyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CCCO)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C24H30FNO5
